US07858796B2
(15) 3-(1-{[2-(cyclopentylamino)ethyl]sulfonyl}-4-piperidinyl)-5-(2-thienyl)-1H-indole-7-carboxamide
Following the general procedure for aminosulfonamide formation outlined in example 2, 3-{1-[(2-chloroethyl)sulfonyl]-4-piperidinyl}-5-(2-thienyl)-1H-indole-7-carboxamide (0.09 mmol) and cyclopentanamine (0.04 mL, 0.45 mmol) were allowed to react in the presence of K2CO3 (44 mg, 0.45 mmol) and NaI (Cat. 5 mg). The resulting residue was purified by reverse phase HPLC eluting with 10% B to 80% B, where A=H2O (0.1% trifluoroacetic acid) and B=CH3CN (0.1% trifluoroacetic acid) to give the title compound (14 mg, 39%).

reactant | aminosulfonamide | NS(=O)(=O)N | H4N2O2S
reactant | 3-{1-[(2-chloroethyl)sulfonyl]-4-piperidinyl}-5-(2-thienyl)-1H-indole-7-carboxamide | 0.09 mmol | ClCCS(=O)(=O)N1CCC(CC1)C1=CNC2=C(C=C(C=C12)C=1SC=CC1)C(=O)N | C20H22ClN3O3S2
reactant | cyclopentanamine | 0.45 mmol, 0.04 mL | C1(CCCC1)N | C5H11N
reactant | K2CO3 | 0.45 mmol, 44 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 5 mg | [Na+].[I-]
product | 3-(1-{[2-(cyclopentylamino)ethyl]sulfonyl}-4-piperidinyl)-5-(2-thienyl)-1H-indole-7-carboxamide | 14 mg, 39% | C1(CCCC1)NCCS(=O)(=O)N1CCC(CC1)C1=CNC2=C(C=C(C=C12)C=1SC=CC1)C(=O)N | C25H32N4O3S2
